US08609849B1
3-Amino-1-(2-fluoro-phenyl)-2,2-dimethyl-propan-1-ol.
To a stirring solution of 3-(2-fluoro-phenyl)-3-hydroxy-2,2-dimethyl-propionitrile (1.5 g, 7.76 mmol) in tetrahydrofuran was added a solution of borane-tetrahydrofuran complex (17 mL, 17.0 mmol, 1M in tetrahydrofuran). After bubbling ceased, the reaction mixture was heated to 75° C. for 4 hours and then allowed to cool to ambient temperature. Methanol (9 mL) was added dropwise followed by hydrogen chloride (9 mL, 4N in 1,4-dioxane). The resulting mixture was heated to reflux for 2 hours, allowed to cool to ambient temperature and then concentrated at reduced pressure. To the residue was added aqueous hydrochloric acid (5 mL, 1 N) followed by ethyl acetate (20 mL). The layers were separated and the aqueous layer was basified with aqueous lithium hydroxide (6 mL, 1 N) and this aqueous phase was extracted with dichloromethane (3×75 mL). The organic extracts were combined, washed with saturated aqueous sodium chloride (20 mL) and concentrated at reduced pressure to give the product as a colorless oil (1.3 g, 85%). 1H NMR (CDCl3) δ 7.53 (m, 1H), 7.25-7.05 (m, 2H), 6.94 (m, 1H), 5.06 (br s, 1H), 2.83 (q, J=12.5 Hz, 2H), 0.86 (d, J=8.5 Hz, 6H).

reactant | 3-(2-fluoro-phenyl)-3-hydroxy-2,2-dimethyl-propionitrile | 7.76 mmol, 1.5 g | FC1=C(C=CC=C1)C(C(C#N)(C)C)O | C11H12FNO
reactant | borane tetrahydrofuran | 17.0 mmol, 1M, 17 mL | B.O1CCCC1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Amino-1-(2-fluoro-phenyl)-2,2-dimethyl-propan-1-ol | 1.3 g, 85% | NCC(C(O)C1=C(C=CC=C1)F)(C)C | C11H16FNO
